US08067447B2
3-(1H-Indazol-5-yl)-2,3-diphenyl-N-(1,3,4-thiadiazol-2-yl)propanamide
Example 152 was prepared from 3-(1H-indazol-5-yl)-2-methyl-3-phenylpropanoic acid (10 and 30 mg, 0.03 and 0.88 mmol) and 1,3,4-thiadiazol-2-amine using General Coupling Method A to give 4 mg (% yield) and 6 mg of the respective diastereomers. MS found: (M+H)+=426. NMR(CDCl3) δ 8.8 (s, 1H); 7.97-8.01 (d, 1H); 7.60 (s, 1H) 7.0-7.59 (m, 12H); 4.85 (d, 1H); 4.56 (d, 1H).

reactant | 3-(1H-indazol-5-yl)-2-methyl-3-phenylpropanoic acid | 0.88 mmol, 30 mg | N1N=CC2=CC(=CC=C12)C(C(C(=O)O)C)C1=CC=CC=C1 | C17H16N2O2
reactant | 1,3,4-thiadiazol-2-amine | S1C(=NN=C1)N | C2H3N3S
product | 3-(1H-Indazol-5-yl)-2,3-diphenyl-N-(1,3,4-thiadiazol-2-yl)propanamide | N1N=CC2=CC(=CC=C12)C(C(C(=O)NC=1SC=NN1)C1=CC=CC=C1)C1=CC=CC=C1 | C24H19N5OS
